US04383999
Similarly, a mixture of 1.63 g. (0.00835 mole) of cis-4-hydroxy-3-piperidinecarboxylic acid methyl ester, hydrochloride, 3 g. (0.0104 mole) of 4,4-diphenyl-3-butenyl bromide, 1.5 g. of potassium carbonate and 0.2 g. of potassium iodide in 50 ml. of dimethylformamide was reacted as described above to give 1-(4,4-diphenyl-3-butenyl)-cis-4-hydroxy-3-piperidinecarboxylic acid methyl ester. This ester (1.4 g., 0.0038 mole) was hydrolyzed in 50 ml. of hot 6 N hydrochloric acid to obtain 1-(4,4-diphenyl-3-butenyl)-cis-4-hydroxy-3-piperidinecarboxylic acid hydrochloride, m.p. 174°-177° C.

reactant | cis-4-hydroxy-3-piperidinecarboxylic acid methyl ester, hydrochloride | 0.00835 mole | Cl.COC(=O)[C@@H]1CNCC[C@@H]1O
reactant | 4,4-diphenyl-3-butenyl bromide | 0.0104 mole | C1(=CC=CC=C1)C(=CCCBr)C1=CC=CC=C1 | C16H15Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(4,4-diphenyl-3-butenyl)-cis-4-hydroxy-3-piperidinecarboxylic acid methyl ester | COC(=O)[C@@H]1CN(CC[C@@H]1O)CCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H27NO3
